US04560699
Methanol (100 ml) containing 2.5 ml water is cooled to -50° C. and 3.07 g of sodium borohydride (81.2 mmole) is added with stirring. After 5 minutes, ethyl 1-(2-acetoxyethyl)-4-bromopyrrole-2-glyoxalate (8.9 g -26.7 mmole) is dissolved in 40 ml methanol and added at a rate such that the reaction temperature does not exceed -40° C. After 1 hour at this temperature, 50% aqueous acetic acid is added until the solution is weakly acidic. The methanol is then removed in vacuo, 100 ml ethyl acetate is added to the residue, and the organic phase is washed well with saturated salt solution and then dried over sodium sulfate. The solvent is removed in vacuo and the residue is immediately crystallized, at low temperature (dry ice-acetone bath), from ether. The ethyl 1-(2-acetoxyethyl)-4-bromopyrrole-2-glycolate thus obtained (6.0 g, 67%) exhibits a m.p. of 59° C. but is unstable and is be stored in an evacuated vessel at -10° C.

reactant | water | 2.5 ml | O | H2O
reactant | sodium borohydride | 81.2 mmole, 3.07 g | [BH4-].[Na+]
reactant | ethyl 1-(2-acetoxyethyl)-4-bromopyrrole-2-glyoxalate | C(C)(=O)OCCN1C(=CC(=C1)Br)C(C(=O)OCC)=O | C12H14BrNO5
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 40 ml | CO | CH4O
solvent | Methanol | 100 ml | CO | CH4O
product | ethyl 1-(2-acetoxyethyl)-4-bromopyrrole-2-glycolate | C(C)(=O)OCCN1C(=CC(=C1)Br)C(C(=O)OCC)O | C12H16BrNO5
